US07732604B2
Synthesis of (3R)—N-methyl-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-amine
To a cooled (0° C.) solution of tert-butyl methyl{(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}carbamate (101 mg, 0.219 mmol) in dichloromethane (2.2 mL) was added hydrochloric acid (4 N in dioxane, 1.10 mL, 4.39 mmol). The reaction mixture was allowed to warm to room temperature as the ice bath melted, stirred for 3 hrs, then diluted with dichloromethane (20 mL). The organic solution was washed with saturated sodium bicarbonate (5 mL) and separated. The aqueous solution was extracted with dichloromethane (3×20 mL) and the organics were combined and concentrated. The crude product was purified by flash chromatography using a Horizon purification system on a 12M column eluting with chloroform/7 N ammonia in methanol (0.1-3.5%) to afford the title compound as the free base which was converted to the dihydrochloric acid salt (56 mg, 63%)

reactant | tert-butyl methyl{(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}carbamate | 0.219 mmol, 101 mg | CN(C(OC(C)(C)C)=O)[C@H]1CN(CC1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C24H28N8O2
reactant | hydrochloric acid | 4.39 mmol, 4 N, 1.10 mL | Cl | ClH
solvent | dichloromethane | 2.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (3R)—N-methyl-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-amine | CN[C@H]1CN(CC1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C19H20N8
